data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5804,"C1CCOC1.C1COCCO1.ClC1=C(C=[O+:1][H:2])SC=N1.OCCO.[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6078,"CCO[C:1](C)([OH:2])[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,139,"C1COC(CC[O-:1])O1.[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,5330,"CCOC(=O)[CH:1](C(C)(C1=CC=CC=C1)[O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9116,"CC(C)(C)OC(=O)C(C1CCCC1)C(CCC[CH2:1][I:2])[CH:3]=[C:4](OC(C)(C)C)[O-:5].CCCCI.[Li+]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3438,"CC1=C(C#N)C(=O)N2CCC(O)([O+:1](CCO)[H:2])C2=C1.CC1=CC=C(S(=O)(=O)[O-:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6870,"O=S(Cl)O[C:1](CCCl)=[O:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9364,"C=C1CC2(C)CCCC(=[O+:1][B-:2](Cl)(Cl)Cl)C1C2(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,4170,"C=C[C:1](C(C)(O)C=CC)([H:2])[C:3](C)=[O:4].[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3119,"C=C[CH:1]=[C:2](C)[O-:3].CC=C[C:4](C)=[O:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,495,"C1=CC=C(C2(C3=CC=CC=C3)CCCC[CH:1]=[C:2]2C2=CC=CC=C2)C=C1.[H:3][Cl:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2043,"C[As+](C)(C)[CH-:1][CH2:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,746,"BrC1C2=C(C=CC=C2)O[C:1](=[O:2])C1Br.[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5908,"CCC[CH2][Li:1].CC[O:2]C(C)N1C=CN=C1|(2, 1)"
train,pmechdb_split_0,0,9935,"CO[C:1]1=[CH:2]C=CC=C1Br.O=[N+:3]=[O:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,3059,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC(CC(C)C)CCC2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7150,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C#CCOC1=CC(C[O-:2])=CC(OCC#C)=C1|(2, 1)"
train,pmechdb_split_0,0,9,"C[CH:1]=[C:2](C)[O-:3].C[CH:4](C)[Br:5]|(3, 2);((2, 1), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6384,"CC(C=O)C(C)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2350,"C[CH2:1][Br:2].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9658,"Cl[P:1](Cl)Cl.[CH3][Mg:2][I]|(1, 2)"
train,pmechdb_split_0,0,8038,"C1=CC2=C(C=C1)C[C:1](=[O:2])C2.C1CC[NH:3]C1.CC1=CC=C(S(=O)(=O)O)C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2725,"COC(=O)C(C)=CN(CCC1=CC=C(OC)C(OC)=C1)C(=O)C=[S:1](C)[OH2+:2].CS(=O)(=O)[O-]|((1, 2), 2)"
train,pmechdb_split_0,0,1980,"COC1=C(O)C=CC(CC(C(=O)[O][Na])C(CO)C(O)C2=CC(OC)=C([O:1][H:2])C=C2)=C1.[Na][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4447,"CC#C[C:1](C)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,4729,"CC[O:1]C(O)(O)CC(C)=O.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9081,"CC(=O)O.CCCCC[C:1](NC(CO)C(O)C=CC1=CC=CS1)([O-:2])[Cl:3].[Na+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2096,"C1=CC=[NH+]C=C1.CCO[C:1](=[C:2](C#N)[CH:3]1C2=C(C=CC(Cl)=C2)N(C)[S:4]1)[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5994,"CC(C)[O-].CC(C)[O][Al-:1]([O]C(C)C)([O]C(C1CCCCC1)C1CCCCC1)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,7533,"C1CC[NH+](C2([O-:1])CCCC2)C1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,59,"CC1=C(CCO)SC=[N+]1CC1=CC=C(CC[N+]2=C(C(CCCOCC3=CC=CC=C3)(C(C3=CC=CO3)[CH:1]=[C:2](C3=NC=CC=C3)[O-:3])[O:4][H:5])SC(CCO)=C2C)C=C1.CCO.CC[NH+](CC)CC.[Br-]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4858,"CCCC[C:1]#[C:2]C(=NOC)C1=CC=CC=C1.Cl[B:3]1OC2=C(C=CC=C2)O1|((1, 2), 3)"
train,pmechdb_split_0,0,5086,"CCCC(C[C:1]#[C:2]CCC)C[N+:3](CC1=CC=CC=C1)=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,9239,"C1=C[CH:1]=[CH:2]C=C1.C[CH2+:3]|((2, 1), 3)"
train,pmechdb_split_0,0,1321,"CC(O)[CH:1]([H:2])[CH+:3]C.O=P(O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,6701,"CCOCC.F[B:1](F)F.O=C1C=CC(=[O:2])C1.OCC(CO)(C1=CC=CC=C1)C1=CC=CC=C1|(2, 1)"
train,pmechdb_split_0,0,2488,"C[P+:1](C)(C)[CH2:2][CH:3]=[CH:4][O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6343,"CC(CC[CH:1]=[C:2](C)[CH:3]=[O:4])[CH:5]=[CH:6][N:7](C)C1=CC=CC=C1.C[NH2+]C1=CC=CC=C1.O|(7, 6);((6, 5), 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,433,"C[P+](C)(C)[CH2:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7486,"CS[C:1](C)([OH2+:2])[S:3]C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6723,"CC[CH:1]=[CH:2][CH:3]=[O:4].O[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1477,"C[Si](C)(C)OCCC(O)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2017,"NCCCC1CCCCC1[O-:1].[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,3820,"CC(C)[C:1]1([H:2])C2=CC=CC=C2[C+:3](Br)[CH:4]=[CH:5]1.[F-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,391,"CC(C)(C(=O)C1CCCC2=C(C=CC=C2)[C:1]1=[O:2])[O-:3].CCCC(O)C(C)CC.O.O=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6033,"CCO[C:1](C1=CC=CC=C1)([O-:2])[O:3]C(=O)C=C(O)CC1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8071,"BrC(Br)Br.ClC1=C([CH2:1][O:2][P+:3](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C2C=CC=CC2=N1.[Br-:4]|(4, 1);((1, 2), 3)"
